US07855294B2
1) (3RS,4SR)-(1-methyl-4-o-tolylpiperidin-3-yl)methanol
In a nitrogen atmosphere, 152 mg of lithiumaluminium hydride was added to tetrahydrofuran (20 mL) solution of 500 mg of methyl (3RS,4SR)-1-methyl-4-o-tolylpiperidine-3-carboxylate obtained in Production Example 31-1, at 0° C., and stirred at 0° C. for 30 minutes. 0.15 mL of water, 0.15 mL of aqueous 15% sodium hydroxide solution and 0.46 mL of water were added to the reaction liquid in that order, and stirred at room temperature for 1 hour. This was diluted with ethyl acetate, and dried with anhydrous sodium sulfate, and the insoluble substance was removed through filtration through Celite. The filtrate was distilled under reduced pressure, and the residue was separated and purified through silica gel column chromatography (chloroform/methanol=70/30) to obtain 470 mg of the entitled compound as a pale yellow oily substance.

reactant | lithiumaluminium hydride | 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | methyl (3RS,4SR)-1-methyl-4-o-tolylpiperidine-3-carboxylate | 500 mg | CN1CC(C(CC1)C1=C(C=CC=C1)C)C(=O)OC | C15H21NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.46 mL | O | H2O
solvent | water | 0.15 mL | O | H2O
product | (3RS,4SR)-(1-methyl-4-o-tolylpiperidin-3-yl)methanol | 470 mg | CN1CC(C(CC1)C1=C(C=CC=C1)C)CO | C14H21NO
